US06444701B1
10-Phenoxydecyl isocyanate
A solution of 11-phenoxyundecanoyl chloride (31.1 g, 104.8 mmoles) in acetone (30 ml) was dropped into a solution of sodium azide (9.53 g, 146.6 mmoles) in water (30 ml), cooled in an ice bath, keeping the solution temperature between 10 and 15° C. After one hour, the solution was transferred in a separatory funnel and the lower phase (the aqueous one) was eliminated. The higher phase was transferred into a flask containing 100 ml of toluene, previously warmed at 65° C. After 1.5 hours, the solution was evaporated to dryness, giving 13.37 g of crude product, which could be used as such in the subsequent reaction.

reactant | 11-phenoxyundecanoyl chloride | 104.8 mmoles, 31.1 g | O(C1=CC=CC=C1)CCCCCCCCCCC(=O)Cl | C17H25ClO2
reactant | sodium azide | 146.6 mmoles, 9.53 g | [N-]=[N+]=[N-].[Na+]
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | acetone | 30 ml | CC(=O)C | C3H6O
solvent | water | 30 ml | O | H2O
product | 10-Phenoxydecyl isocyanate | 13.37 g | O(C1=CC=CC=C1)CCCCCCCCCCN=C=O | C17H25NO2
